US05439911
p-Toluenesulfonic acid (0.30 g) was added to a solution of 4-bromophenethyl alcohol (9.50 g, 47.24 mmol) in methylene chloride (50 ml), and the mixture was stirred under ice-cooling. To the mixture was added 3,4-dihydropyran (5.53 g, 65.74 mmol). After stirring under ice-cooling for 20 minutes, a saturated aqueous solution of sodium bicarbonate (40 ml) was added to the reaction mixture. The resulting mixture was extracted with methylene chloride and dried over magnesium sulfate. After evaporation of the solvent, the desired 4-(2-(tetrahydropyran-2-yloxy)ethyl)bromobenzene was obtained (13.40 g, 99%).

reactant | p-Toluenesulfonic acid | 0.30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-bromophenethyl alcohol | 47.24 mmol, 9.50 g | BrC1=CC=C(CCO)C=C1 | C8H9BrO
reactant | 3,4-dihydropyran | 65.74 mmol, 5.53 g | O1CCCC=C1 | C5H8O
reactant | sodium bicarbonate | 40 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-(tetrahydropyran-2-yloxy)ethyl)bromobenzene | O1C(CCCC1)OCCC1=CC=C(C=C1)Br | C13H17BrO2
